US07659267B2
tert-Butyl 3-[3-(4-oxo-4H-1,3-benzothiazin-2-yl)phenyl]propionate
A mixture of tert-butyl 3-(3-cyanophenyl)propionate (0.74 g, 3.2 mmol), methyl thiosalicylate (1.1 g, 6.4 mmol), triethylamine (0.67 ml, 4.8 mmol) and toluene (3 ml) was heated and refluxed for 27 hours under a nitrogen flow. The reaction mixture was applied to column chromatography using silica gel (50 g). Fractions eluted with hexane-ethyl acetate (2:1, v/v) were collected and concentrated to give the title compound (0.19 g, 16%) as crystals.

reactant | tert-butyl 3-(3-cyanophenyl)propionate | 3.2 mmol, 0.74 g | C(#N)C=1C=C(C=CC1)CCC(=O)OC(C)(C)C | C14H17NO2
reactant | methyl thiosalicylate | 6.4 mmol, 1.1 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | triethylamine | 4.8 mmol, 0.67 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | tert-Butyl 3-[3-(4-oxo-4H-1,3-benzothiazin-2-yl)phenyl]propionate | 0.19 g, 16% | O=C1N=C(SC2=C1C=CC=C2)C=2C=C(C=CC2)CCC(=O)OC(C)(C)C | C21H21NO3S
